US05382668
A mixture of 10.32 grams of 2-ethylcarboxy-3-nitromethyl-5-(4-(2,2-dimethylethyl)carboxyphenyl)pentanoic acid ethyl ester and 1.5 grams of platinum(IV) oxide in 200 ml of ethanol was hydrogenated in a Parr apparatus at an initial pressure of 50 psig H2. Filtration of the catalyst and removal of the solvent in vacuo provided the crude product as an oil which crystallized upon dissolution in 50 ml ether and addition of about 200 ml hexane until just cloudy. After stirring overnight, the crystalline material was filtered, washed with hexane, dried; affording 3.54 grams (42%) of 4-(2-oxo-3-carboethoxypyrrolidin-4-yl)ethyl)benzoic acid, 2,2-dimethylethyl ester. Selected data: mp 98°-104° C., 1H NMR (CDCl3) δ7.89 (d, J=8.2 Hz, 2H), 7.18 (d, J=8.2 Hz, 2H), 6.75 (s, 1H), 4.23 (q, 2H), 3.54 (dd, J=9.0, 8.3 Hz, 1H), 3.12 (d, J=8.6 Hz, 1H), 3.00 (dd, J=9.4, 7.4 Hz, 1H), 2.87 (m, 1H), 2.66 (t, J=7.6 Hz, 2H), 1.86 (m, 2H), 1.57 (s, 9H), 1.28 (t, 3H); 13C NMR (CDCl3) δ173.2, 169.7, 165.6, 145.8, 130.1, 129.7, 128.0, 80.8, 62.6, 54.4, 46.5, 38.9, 35.1, 32.4, 28.1, 14.1; MS(FAB) m/z 362 (7, M+ +1), 306 (100), 288 (22), Anal. Calcd for C20H27NO5 : C, 66.46; H, 7.53; N, 3.87. Found: C, 66.44; H, 7.77; N, 3.86.

reactant | 2-ethylcarboxy-3-nitromethyl-5-(4-(2,2-dimethylethyl)carboxyphenyl)pentanoic acid ethyl ester | 10.32 grams | C(C)OC(C(C(CCC1=C(C=C(C=C1)CC(C)C)C(=O)O)C[N+](=O)[O-])(CC)C(=O)O)=O | C22H31NO8
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | platinum(IV) oxide | 1.5 grams | [Pt](=O)=O
product | benzoic acid, 2,2-dimethylethyl ester | C(C1=CC=CC=C1)(=O)OCC(C)C | C11H14O2
